US09351962B2
To a solution of 4-methylthiazol-2-amine (25 g, 219 mmol) and (Boc)2O (53 g, 241 mmol) in anhydrous THF (110 mL) were added DMAP (250 mg) and Et3N (39.6 mL, 285 mmol). The reaction mixture was stirred at room temperature for 18 h. Then the reaction was heated to reflux for 5 h, until no more starting material was detected by LC-MS. The reaction was cooled to room temperature and filtered to remove the precipitate. The filtrate was concentrated, then dissolved in CH2Cl2 and washed with 0.1 N aqueous HCl, H2O and brine. The organic layer was dried over MgSO4 and concentrated. The residue was suspended in hexane and then filtered to obtain tert-butyl 4-methylthiazol-2-ylcarbamate as a cream colored solid (30.9 g, 66%). 1H-NMR (400 MHz, DMSO-d6) δ 11.30 (s, 1H), 6.68 (d, J=1.0 Hz, 1H), 2.20 (d, J=0.9 Hz, 3H), 1.47 (s, 9H); HPLC ret. time 2.68 min, 10-99% CH3CN, 5 min run; ESI-MS 215.3 m/z (MH+).

reactant | 4-methylthiazol-2-amine | 219 mmol, 25 g | CC=1N=C(SC1)N | C4H6N2S
reactant | (Boc)2O | 241 mmol, 53 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | Et3N | 285 mmol, 39.6 mL | CCN(CC)CC | C6H15N
solvent | THF | 110 mL | C1CCOC1 | C4H8O
catalyst | DMAP | 250 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | tert-butyl 4-methylthiazol-2-ylcarbamate | 30.9 g, 66% | CC=1N=C(SC1)NC(OC(C)(C)C)=O | C9H14N2O2S
